2175-02-28 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2175-2-27**] 10:58 AM
 MULTI LUMEN - STOP [**2175-2-27**] 04:00 PM (fem line)
   --vascular will take him for procedure when medically stable, for now
   recommended elevating legs
   Per EP, likely had drug induced polymorphic VT degenerating into VF.
   Observe for now and avoid Qt prolonging agents
   S:Feels well this am with no complaints. Denies CP, Sob, palpitations.
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendKeflex (Oral) (Cephalexin
   Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2175-2-26**] 08:00 PM
   Meropenem - [**2175-2-27**] 07:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-28**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 71 (55 - 80) bpm
   BP: 107/54(72) {98/48(65) - 140/75(98)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    530 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    115 mL
   Urine:
                                                                  1,070 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 487 (487 - 543) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: 7.49/40/85.[**Numeric Identifier 299**]/30/6
   Ve: 7.1 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Gen: chronically ill apeearing, NAD, laying in bed, interactive
   HEENT: MM slightly dry. JVP flat
   CV: Brady. Reg. [**2-3**] syst murmur LUSB
   Resp: CTA anteriorly
   Abd: Soft.NTND Pos BS
   Ext: bandages BL LE. Ishcemic gangrenous toes RLE. Fem lines removed.
   Foley in place
   Labs / Radiology
   228 K/uL
   9.7 g/dL
   194 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   34 mg/dL
   100 mEq/L
   134 mEq/L
   27.8 %
   6.7 K/uL
        [image002.jpg] Previous Cr 1.7  previous HCT 27<-30<-26
                             [**2175-2-26**]  08:25 PM
                             [**2175-2-26**]  10:08 PM
                             [**2175-2-27**]  12:32 AM
                             [**2175-2-27**]  04:16 AM
                             [**2175-2-27**]  04:17 AM
                             [**2175-2-27**]  05:54 AM
                             [**2175-2-28**]  04:05 AM
                             [**2175-2-28**]  04:15 AM
   WBC
   8.0
   6.7
   Hct
   27.0
   27.8
   Plt
   212
   228
   Cr
   1.7
   1.6
   TropT
   0.07
   0.07
   TCO2
   31
   33
   34
   31
   31
   Glucose
   141
   194
   Other labs: PT / PTT / INR:20.6/39.5/1.9, CK / CKMB /
   Troponin-T:28//0.07, ALT / AST:24/45, Alk Phos / T Bili:190/1.1, Lactic
   Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:183 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Micro: [**2-23**] urine cx Citrobacter [**First Name9 (NamePattern2) 4981**] [**Last Name (un) 46**] to cephalosporins, [**Last Name (un) **],
   macrobid. Resistant to cipro, pip, bactrim. Foot cx B frag; citrobacter
   [**Last Name (un) 4981**],. Coag pos staph ([**Last Name (un) 46**] pending)
   Blood cx [**2-24**], [**2-23**] NGTD
   Assessment and Plan
   74 M with CAD s/p RCA stent with clean coronaries [**2173**], bioprosthetic
   AVR, afib, PVD s/p left AT angioplasty, DM and CRI admitted for
   ischemic toes now s/p angio.  Hospital course c/b VF arrest on floor
   thought [**1-30**] prolonged QTc syndrome with prolonging medications.
   .
   # VFib arrest: Patient seen by EP yesterday. Most likely had torsades
   degenerating int o V arrest from qt prolonging agents,m specifically
   cipro. Patient has prolonged QT on telemetry in ICU and in setting of
   cipro may have worsened precipitating R on T and arrest.  Also with
   probable scar that could cause scar mediated VT given h/o ischemic CAD
   although no e/o for current ischemia by ECG.  Patient now stabilized.
   - EP following, greatly appreciate recs
   - Monitor on telemetry.  If brady persists could consider isoproterenol
   but has been improved overnight
   - hold nodal agents and Qt prolonging agents
   .
   # CAD: No ischemic changes on EKG.  Less likely to be arrest related to
   acute ischemic event. CKs, trop flat x 3 sets.
   - Continue ASA, statin.
   .
   # RhythmSinus brady. Prolonged QT and PR noted on telemetry but now
   improved.
   -Also holding coumadin with ho PAF.  INR slightly subtherapeutic,
   trend.  Slow to decrease likely [**1-30**] nutritional deficiency.  Will hold
   coumadin overnight in case of vascular procedures
   - Holding beta blocker [**1-30**] bradycardia.
   - will d/w vascular ifplanned procedure
   .
   # Pump: Normal EF on last echo.  Moderate TR.
   - Monitor volume status clinically, now euvolemic
   .
   # s/p intubation: Intubated for agitation during code.  ABGs with
   alkalosis.  As minimal sedation as possible given HR, BP.
   -extubated successfullly
   # Urinary tract infection: UCx positive for Citrobacter sensitive to
   Meropenem.
   - Continue Meropenem for now.  Could consider discussion with ID in the
   AM.
   - Repeat UA in next few days to check for resolution.
   .
   # Gangrenous Wound: Wound cultures positive for Citrobacter and Coag
   positive staph.  Avoiding fluoroquinolones for QT prolongation.  Has
   h/o allergy to cephalosporins.
   - Cover broadly with Vanco/[**Last Name (un) 350**] for wound infection ([**Last Name (un) 46**] to both, coag
   pos staph [**Last Name (un) 46**] pending).
   - Follow wound and blood cultures
   - Will continue to follow with vascular surgery.
   .
   # Acute on chronic renal failure: Improving.  Baseline creatinine 1.5,
   has been improving since angio.
   - Follow closely in setting of recent angio as well as arrest.
   - Will continue with IVF overnight.  Holding lasix.
   - Renally dose all meds
   .
   # PVD: as per vascular team.  Plan was for repeat angiography, however
   likely on hold for now.  When he does go for procedure will need IVF,
   mucomyst.
   - f/u blood and wound cx
   - Wound care recs/Podiatry recs
   - Will need repeat angio in the future once more stable.  hold
   currently.
   .
   # Anemia: Stable, but low.
   - Follow hct
   .
   # Diabetes.
   - FS QID
   - Insulin sliding scale
   .
   # FEN: heart healthy, IVF's.
   - Monitor lytes and replete PRN
   .
   # Access: PIVs. Left femoral line discontinued.
   .
   # Code: FULL
   .
   # Communication: Son and patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-2-26**] 07:14 PM
   20 Gauge - [**2175-2-27**] 01:00 PM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2175-02-28 09:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2175-2-27**] 10:58 AM
 MULTI LUMEN - STOP [**2175-2-27**] 04:00 PM (fem line)
   --vascular will take him for procedure when medically stable, for now
   recommended elevating legs
   Per EP, likely had drug induced polymorphic VT degenerating into VF.
   Observe for now and avoid Qt prolonging agents
   S:Feels well this am with no complaints. Denies CP, Sob, palpitations.
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendKeflex (Oral) (Cephalexin
   Monohydrate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2175-2-26**] 08:00 PM
   Meropenem - [**2175-2-27**] 07:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-2-28**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 71 (55 - 80) bpm
   BP: 107/54(72) {98/48(65) - 140/75(98)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    530 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    115 mL
   Urine:
                                                                  1,070 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 487 (487 - 543) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: 7.49/40/85.[**Numeric Identifier 299**]/30/6
   Ve: 7.1 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Gen: chronically ill apeearing, NAD, laying in bed, interactive
   HEENT: MM slightly dry. JVP flat
   CV: Brady. Reg. [**2-3**] syst murmur LUSB
   Resp: CTA anteriorly
   Abd: Soft.NTND Pos BS
   Ext: bandages BL LE. Ishcemic gangrenous toes RLE. Fem lines removed.
   Foley in place
   Labs / Radiology
   228 K/uL
   9.7 g/dL
   194 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   34 mg/dL
   100 mEq/L
   134 mEq/L
   27.8 %
   6.7 K/uL
        [image002.jpg] Previous Cr 1.7  previous HCT 27<-30<-26
                             [**2175-2-26**]  08:25 PM
                             [**2175-2-26**]  10:08 PM
                             [**2175-2-27**]  12:32 AM
                             [**2175-2-27**]  04:16 AM
                             [**2175-2-27**]  04:17 AM
                             [**2175-2-27**]  05:54 AM
                             [**2175-2-28**]  04:05 AM
                             [**2175-2-28**]  04:15 AM
   WBC
   8.0
   6.7
   Hct
   27.0
   27.8
   Plt
   212
   228
   Cr
   1.7
   1.6
   TropT
   0.07
   0.07
   TCO2
   31
   33
   34
   31
   31
   Glucose
   141
   194
   Other labs: PT / PTT / INR:20.6/39.5/1.9, CK / CKMB /
   Troponin-T:28//0.07, ALT / AST:24/45, Alk Phos / T Bili:190/1.1, Lactic
   Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:183 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Micro: [**2-23**] urine cx Citrobacter [**First Name9 (NamePattern2) 4981**] [**Last Name (un) 46**] to cephalosporins, [**Last Name (un) **],
   macrobid. Resistant to cipro, pip, bactrim. Foot cx B frag; citrobacter
   [**Last Name (un) 4981**],. Coag pos staph ([**Last Name (un) 46**] pending)
   Blood cx [**2-24**], [**2-23**] NGTD
   Assessment and Plan
   74 M with CAD s/p RCA stent with clean coronaries [**2173**], bioprosthetic
   AVR, afib, PVD s/p left AT angioplasty, DM and CRI admitted for
   ischemic toes now s/p angio.  Hospital course c/b VF arrest on floor
   thought [**1-30**] prolonged QTc syndrome with prolonging medications.
   .
   # VFib arrest: Most likely had torsades degenerating into VF arrest
   from qt prolonging agents, specifically ciprofloxacin. Patient has
   prolonged QT on telemetry in ICU and in setting of cipro may have
   worsened precipitating R on T and arrest.  Also with probable scar that
   could cause scar mediated VT given h/o ischemic CAD although no e/o for
   current ischemia by ECG.  Patient now stabilized.
   - EP following, greatly appreciate recs, additional history obtained of
   multiple family members with prolonged QT
   - Monitor on telemetry.
   - Restart coreg today per EP recs
   .
   # CAD: No ischemic changes on EKG.  Less likely to be arrest related to
   acute ischemic event. CKs, trop flat x 3 sets.
   - Continue ASA, statin.
   .
   # Rhythm: Prolonged QT and PR noted on telemetry but now improved.
   -Also holding coumadin with ho PAF.  INR slightly subtherapeutic,
   trend.  Slow to decrease likely [**1-30**] nutritional deficiency.  Will hold
   coumadin overnight in case of vascular procedures
   - will d/w vascular if planned procedure
   .
   # Pump: Normal EF on last echo.  Moderate TR.
   - Monitor volume status clinically, mild volume overload following
   resuscitation
 will give lasix 20mg IV
   .
   # s/p intubation: Intubated for agitation during code.  ABGs with
   alkalosis.  As minimal sedation as possible given HR, BP.
   -extubated successfullly
   # Urinary tract infection: UCx positive for Citrobacter sensitive to
   Meropenem.
   - Continue Meropenem for now.  Could consider discussion with ID in the
   AM.
   - Repeat UA in next few days to check for resolution.
   .
   # Gangrenous Wound: Wound cultures positive for Citrobacter and Coag
   positive staph.  Avoiding quinolones for QT prolongation.  Has h/o
   allergy to cephalosporins.
   - Cover broadly with Vanco/[**Last Name (un) 350**] for wound infection ([**Last Name (un) 46**] to both, coag
   pos staph [**Last Name (un) 46**] pending).
   - Follow wound and blood cultures
   - Will continue to follow with vascular surgery.
   .
   # Acute on chronic renal failure: Improving.  Baseline creatinine 1.5,
   has been improving since angio.
   - Follow closely in setting of recent angio as well as arrest.
   -  Renally dose all meds
   .
   # PVD: as per vascular team.  Plan was for repeat angiography, however
   likely on hold for now.  When he does go for procedure will need IVF,
   mucomyst.
   - f/u blood and wound cx
   - Wound care recs/Podiatry recs
   - Will need repeat angio in the future once more stable.  hold
   currently.
   .
   # Anemia: Stable, but low.
   - Follow hct
   .
   # Diabetes.
   - FS QID
   - Insulin sliding scale
   .
   # FEN: heart healthy, IVF's.
   - Monitor lytes and replete PRN
   .
   # Access: PIVs. Left femoral line discontinued.
   .
   # Code: FULL
   .
   # Communication: Son and patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-2-26**] 07:14 PM
   20 Gauge - [**2175-2-27**] 01:00 PM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer:
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: Call out to medical service
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to cardiac arrest, long qt syndrome.
   Critical care time
 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2175-3-3**] 09:11 ------